US07189741B2
B. Preparation of 2-methoxy-5-[4-(1-pyridin-3-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid
This compound was prepared following the procedure described in example 1 (part E) starting with 0.054 g (0.13 mmol) of 5-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-2-methoxy-benzoic acid methyl ester and 0.029 mg (0.16 mmol) of 3-chloromethyl-pyridine hydrochloride. After the described purification, 0.007 g (11% of yield) of the expected acid was obtained.

reactant | 5-[4-(1H-indol-3-yl)-piperidin-1-ylmethyl]-2-methoxy-benzoic acid methyl ester | 0.13 mmol, 0.054 g | COC(C1=C(C=CC(=C1)CN1CCC(CC1)C1=CNC2=CC=CC=C12)OC)=O | C23H26N2O3
reactant | 3-chloromethyl-pyridine hydrochloride | 0.16 mmol, 0.029 mg | Cl.ClCC=1C=NC=CC1
product | 2-methoxy-5-[4-(1-pyridin-3-ylmethyl-1H-indol-3-yl)-piperidin-1-ylmethyl]-benzoic acid | COC1=C(C(=O)O)C=C(C=C1)CN1CCC(CC1)C1=CN(C2=CC=CC=C12)CC=1C=NC=CC1 | C28H29N3O3
